US07713994B2
A mixture of 4-nitrophenylacetic acid (0.27 g, 1.5 mmol) and di-tert-butyldicarbonate (0.65 g, 3.0 mmol) in ethyl acetate (10 mL) is hydrogenated at atmospheric pressure over 10% palladium on carbon. The reaction mixture is filtered through a pad of diatomaceous earth, and after concentration of the filtrate, the residue is taken up in dioxane/water (1:1, 10 mL). Aqueous sodium hydroxide solution (1 M, 3 mL) is added, followed by di-tert-butyldicarbonate (0.47 g, 2.1 mmol). After stirring for 3 hours at room temperature, the reaction is quenched by the addition of 5% aqueous potassium hydrogen sulfate solution. The mixture is extracted thrice with dichloromethane, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to afford (4-tert-butoxycarbonylamino-phenyl)-acetic acid, which is purified by reverse phase high performance liquid chromatography.

reactant | 4-nitrophenylacetic acid | 1.5 mmol, 0.27 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | di-tert-butyldicarbonate | 3.0 mmol, 0.65 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyldicarbonate | 2.1 mmol, 0.47 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | (4-tert-butoxycarbonylamino-phenyl)-acetic acid | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CC(=O)O | C13H17NO4
